US06320050B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid ethyl ester (707 mg, 1.80 mmol in tetrahydrofuran/water (24 mL, 3:1) was treated with lithium hydroxide (166 mg, 3.97 mmol). The reaction was stirred at 25° C. for 24 h. At this time, the reaction concentrated in vacuo. The residue was diluted with water (25 mL) and extracted with diethyl ether (1×15 mL). The aqueous layer was acidified to pH=1 with a 2N aqueous hydrochloric acid solution, and extracted with chloroform (3×25 mL). The organics were washed with water (1×25 mL), a saturated aqueous sodium chloride solution (3×25 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid (426.7 mg, 65%) as a white solid: mp 122-123° C.; EI-HRMS m/e calcd for C16H19O4S (M+) 364.0956 found 364.0956.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F)=O | C18H23F3O4S
reactant | lithium hydroxide | 3.97 mmol, 166 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | 24 mL | O1CCCC1.O
product | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid | 426.7 mg, 65% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C16H19F3O4S
